* backlight — субсхема из нетлиста KiCad + YAML
.subckt backlight GND ILLUM_IN_RAW NET_BTN_CH1_A NET_BTN_CH1_B NET_BTN_CH1_C NET_BTN_CH2_A NET_BTN_CH2_B NET_BTN_CH2_C NET_PTR_CH1_A NET_PTR_CH1_B NET_PTR_CH1_C NET_PTR_CH2_A NET_PTR_CH2_B NET_PTR_CH2_C NET_PTR_CH3_A NET_PTR_CH3_B NET_PTR_CH3_C NET_PTR_CH4_A NET_PTR_CH4_B NET_PTR_CH4_C NET_SCALE_CH1_A NET_SCALE_CH1_B NET_SCALE_CH1_C NET_SCALE_CH2_A NET_SCALE_CH2_B NET_SCALE_CH2_C NET_SCALE_CH3_A NET_SCALE_CH3_B NET_SCALE_CH3_C NET_SCALE_CH4_A NET_SCALE_CH4_B NET_SCALE_CH4_C NET_SCALE_CH5_A NET_SCALE_CH5_B NET_SCALE_CH5_C NET_SCALE_CH6_A NET_SCALE_CH6_B NET_SCALE_CH6_C NET_SCALE_CH7_A NET_SCALE_CH7_B NET_SCALE_CH7_C NET_SCALE_CH8_A NET_SCALE_CH8_B NET_SCALE_CH8_C
  DLED101 NET_BTN_CH1_A NET_BTN_CH1_B LED_WHITE
  DLED102 NET_BTN_CH1_B NET_BTN_CH1_C LED_WHITE
  DLED103 NET_BTN_CH1_C GND LED_WHITE
  DLED104 NET_BTN_CH2_A NET_BTN_CH2_B LED_WHITE
  DLED105 NET_BTN_CH2_B NET_BTN_CH2_C LED_WHITE
  DLED106 NET_BTN_CH2_C GND LED_WHITE
  DLED11 NET_SCALE_CH1_A NET_SCALE_CH1_B LED_WHITE
  DLED12 NET_SCALE_CH1_B NET_SCALE_CH1_C LED_WHITE
  DLED13 NET_SCALE_CH1_C GND LED_WHITE
  DLED201 NET_PTR_CH1_A NET_PTR_CH1_B LED_WHITE
  DLED202 NET_PTR_CH1_B NET_PTR_CH1_C LED_WHITE
  DLED203 NET_PTR_CH1_C GND LED_WHITE
  DLED204 NET_PTR_CH2_A NET_PTR_CH2_B LED_WHITE
  DLED205 NET_PTR_CH2_B NET_PTR_CH2_C LED_WHITE
  DLED206 NET_PTR_CH2_C GND LED_WHITE
  DLED207 NET_PTR_CH3_A NET_PTR_CH3_B LED_WHITE
  DLED208 NET_PTR_CH3_B NET_PTR_CH3_C LED_WHITE
  DLED209 NET_PTR_CH3_C GND LED_WHITE
  DLED21 NET_SCALE_CH2_A NET_SCALE_CH2_B LED_WHITE
  DLED210 NET_PTR_CH4_A NET_PTR_CH4_B LED_WHITE
  DLED211 NET_PTR_CH4_B NET_PTR_CH4_C LED_WHITE
  DLED212 NET_PTR_CH4_C GND LED_WHITE
  DLED22 NET_SCALE_CH2_B NET_SCALE_CH2_C LED_WHITE
  DLED23 NET_SCALE_CH2_C GND LED_WHITE
  DLED31 NET_SCALE_CH3_A NET_SCALE_CH3_B LED_WHITE
  DLED32 NET_SCALE_CH3_B NET_SCALE_CH3_C LED_WHITE
  DLED33 NET_SCALE_CH3_C GND LED_WHITE
  DLED41 NET_SCALE_CH4_A NET_SCALE_CH4_B LED_WHITE
  DLED42 NET_SCALE_CH4_B NET_SCALE_CH4_C LED_WHITE
  DLED43 NET_SCALE_CH4_C GND LED_WHITE
  DLED51 NET_SCALE_CH5_A NET_SCALE_CH5_B LED_WHITE
  DLED52 NET_SCALE_CH5_B NET_SCALE_CH5_C LED_WHITE
  DLED53 NET_SCALE_CH5_C GND LED_WHITE
  DLED61 NET_SCALE_CH6_A NET_SCALE_CH6_B LED_WHITE
  DLED62 NET_SCALE_CH6_B NET_SCALE_CH6_C LED_WHITE
  DLED63 NET_SCALE_CH6_C GND LED_WHITE
  DLED71 NET_SCALE_CH7_A NET_SCALE_CH7_B LED_WHITE
  DLED72 NET_SCALE_CH7_B NET_SCALE_CH7_C LED_WHITE
  DLED73 NET_SCALE_CH7_C GND LED_WHITE
  DLED81 NET_SCALE_CH8_A NET_SCALE_CH8_B LED_WHITE
  DLED82 NET_SCALE_CH8_B NET_SCALE_CH8_C LED_WHITE
  DLED83 NET_SCALE_CH8_C GND LED_WHITE
  R1 ILLUM_IN_RAW NET_SCALE_CH1_A 130
  R10 ILLUM_IN_RAW NET_BTN_CH2_A 130
  R11 ILLUM_IN_RAW NET_PTR_CH1_A 130
  R12 ILLUM_IN_RAW NET_PTR_CH2_A 130
  R13 ILLUM_IN_RAW NET_PTR_CH3_A 130
  R14 ILLUM_IN_RAW NET_PTR_CH4_A 130
  R2 ILLUM_IN_RAW NET_SCALE_CH2_A 130
  R3 ILLUM_IN_RAW NET_SCALE_CH3_A 130
  R4 ILLUM_IN_RAW NET_SCALE_CH4_A 130
  R5 ILLUM_IN_RAW NET_SCALE_CH5_A 130
  R6 ILLUM_IN_RAW NET_SCALE_CH6_A 130
  R7 ILLUM_IN_RAW NET_SCALE_CH7_A 130
  R8 ILLUM_IN_RAW NET_SCALE_CH8_A 130
  R9 ILLUM_IN_RAW NET_BTN_CH1_A 130
.ends backlight
