* condensate_sensor — субсхема из нетлиста KiCad + YAML
.subckt condensate_sensor COND_ADC COND_IN_RAW GND
  C27 COND_ADC GND 100n
  D28 GND COND_ADC D_ZENER_3V6
  R29 COND_IN_RAW COND_ADC 10k
  R30 COND_ADC GND 20k
.ends condensate_sensor
