* fan_driver_testbench — субсхема из нетлиста KiCad + YAML
.subckt fan_driver_testbench FAN_GATE_INT FAN_LOAD_LO FAN_PWM_EXT_IN GND MOTOR_TERM VBAT_FAN
  C546 FAN_GATE_INT GND 1n
  C593 MOTOR_TERM GND 100n
  D6 FAN_LOAD_LO VBAT_FAN D_SCHOTTKY
  L637 FAN_LOAD_LO MOTOR_TERM 2u
  XQ5 FAN_GATE_INT FAN_LOAD_LO GND BTS141
  R31 FAN_PWM_EXT_IN FAN_GATE_INT 100
.ends fan_driver_testbench
