* heating_sensor — субсхема из нетлиста KiCad + YAML
.subckt heating_sensor GND NTC_HEAT NTC_HEAT_W VCC_3V3
  C25 NTC_HEAT_W GND 100n
  R25 VCC_3V3 NTC_HEAT_W 10k
  R26 NTC_HEAT_W NTC_HEAT 10k
.ends heating_sensor
