* power_outputs — субсхема из нетлиста KiCad + YAML
.subckt power_outputs AC_BASE AC_CTL AC_PNP_BASE AC_REQ AC_REQ_OUT FAN_GATE FAN_PWM_CTL FAN_PWM_NODE GND HEAT_FAN_PWM_CTL VCC_12V
  MQ1 FAN_PWM_NODE FAN_GATE GND GND BSS138
  Q3 AC_PNP_BASE AC_BASE GND MMBT3904
  Q4 AC_REQ AC_PNP_BASE VCC_12V MMBT3906
  R13 FAN_PWM_CTL FAN_GATE 1k
  R14 FAN_PWM_NODE VCC_12V 4.7k
  R15 FAN_PWM_NODE HEAT_FAN_PWM_CTL 1k
  R18 AC_CTL AC_BASE 10k
  R19 AC_BASE GND 100k
  R20 AC_PNP_BASE VCC_12V 10k
  R21 AC_REQ AC_REQ_OUT 1k
.ends power_outputs
