* solar_sensor — субсхема из нетлиста KiCad + YAML
.subckt solar_sensor GND SOLAR_ADC SOLAR_IN_RAW
  C26 SOLAR_ADC GND 100n
  D29 GND SOLAR_ADC D_ZENER_3V6
  R27 SOLAR_IN_RAW SOLAR_ADC 10k
  R28 SOLAR_ADC GND 20k
.ends solar_sensor
